US04377699
74.5 g (1.05 moles) of chlorine were added with stirring at 20° to 30° C. to a mixture of 161 g (1 mole) of 1-acetyl-indoline in 1,050 ml of glacial acetic acid and the mixture was stirred for 15 minutes after which 8500 ml of water were added thereto with stirring. The mixture was stirred for 30 minutes and sodium bisulfite was added to destroy excess chlorine and was then vacuum filtered. The recovered product was dissolved in 250 ml of hot isopropanol and the mixture was cooled with stirring and then vacuum filtered. The product was rinsed with 250 ml of isopropanol to obtain 5-chloro-1-acetyl-indoline which was saponified as in Example 1 to obtain 70 g (45% yield) of 5-chloro-indoline.

reactant | chlorine | 1.05 moles, 74.5 g | ClCl | Cl2
reactant | 1-acetyl-indoline | 1 mole, 161 g | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
reactant | water | 8500 ml | O | H2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 1,050 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-1-acetyl-indoline | ClC=1C=C2CCN(C2=CC1)C(C)=O | C10H10ClNO
